US08134001B2
In a manner similar to the method described in example 4a, 5-chlorosalicylaldehyde (2.32 g, 14.8 mmol) (Aldrich) reacted with methanesulfonic acid 1,4-dioxa-spiro[4.5]dec-8-yl ester (3.5 g, 14.8 mmol) and K2CO3 in N,N-dimethylformamide to give 5-chloro-2-(1,4-dioxa-spiro[4.5]dec-8-yloxy)-benzaldehyde as a colorless oil (Yield 1.5 g, 34%).

reactant | 5-chlorosalicylaldehyde | 14.8 mmol, 2.32 g | ClC1=CC=C(C(C=O)=C1)O | C7H5ClO2
reactant | methanesulfonic acid 1,4-dioxa-spiro[4.5]dec-8-yl ester | 14.8 mmol, 3.5 g | O1CCOC12CCC(CC2)OS(=O)(=O)C | C9H16O5S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-chloro-2-(1,4-dioxa-spiro[4.5]dec-8-yloxy)-benzaldehyde | Yield 1.5 g, 34% | ClC=1C=CC(=C(C=O)C1)OC1CCC2(OCCO2)CC1 | C15H17ClO4
